US04480100
(2-Chlorophenyl)[2-[(3-nitro-2-pyridinyl)amino]phenyl]methanone
Under nitrogen atmosphere, 44.4 g (0.192 mole) of 2-amino-2'-chlorobenzophenone was added in four portions at 15 min intervals to a stirred melt (130°-135° C.) of 33.5 g (0.211 mole) of 2-chloro-3-nitropyridine. Heating was continued for 30 min at 130°-135° C. and for 45 min at 145° C. The reaction mixture was cooled to 110° C. and 200 ml of hot toluene was added. To the cooled mixture (room temperature) 100 ml of 10% aqueous sodium hydroxide was added and stirring was continued for 15 min. The toluene layer was separated and washed three times with 75 ml portions of water, dried over sodium sulfate and concentrated in vacuo. The residue was dissolved in 300 ml of methylene chloride and the solution was stirred with 100 g of fluorisil for 30 min. The mixture was filtered, rinsing with fluorisil filter-cake several times with methylene chloride. The combined filtrates were treated in the same manner with an additional 100 g of fluorisil. The methylene chloride was separated by filtration and concentrated in vacuo. The residue was crystallized from ethyl acetate-cyclohexane to give 26.0 g of a bright yellow solid, m.p. 119° C. A second crop (7.0 g) was obtained from the filtrate and recrystallized from isopropyl ether, m.p. 118°-119° C. The total yield amounted to 49% of theory.

reactant | 2-amino-2'-chlorobenzophenone | 0.192 mole, 44.4 g | NC1=C(C(=O)C2=C(C=CC=C2)Cl)C=CC=C1 | C13H10ClNO
reactant | 2-chloro-3-nitropyridine | 0.211 mole, 33.5 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | sodium hydroxide | 100 ml | [OH-].[Na+]
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | (2-Chlorophenyl)[2-[(3-nitro-2-pyridinyl)amino]phenyl]methanone | 26.0 g | ClC1=C(C=CC=C1)C(=O)C1=C(C=CC=C1)NC1=NC=CC=C1[N+](=O)[O-] | C18H12ClN3O3
